US09193693B2
Step 5. (S)-2-(4-Fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid
Into a 10-mL sealed tube, was placed (S)-butyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (150 mg, 0.37 mmol, 1.00 equiv), methanol (15 mL), sodium hydroxide (74 mg, 1.85 mmol, 5.02 equiv), water (2 mL). The resulting solution was stirred for 2 hrs at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum and diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with aq. hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. The crude product (150 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-1): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (60% CH3CN up to 75% in 8 min, up to 100% in 1.5 min); Detector, UV 220 254 nm. This resulted in 60 mg (46%) of (S)-2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | (S)-butyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.37 mmol, 150 mg, 1.00 equiv | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OCCCC | C24H26FN3O2
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium hydroxide | 1.85 mmol, 74 mg, 5.02 equiv | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | (S)-2-(4-Fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)O | C20H18FN3O2
